US07135600B2
v) (E)-2-{3-[4-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)butyl]phenyl}-N-methylethenesulfonamide
A stirred mixture (5R)-3-{6-[4-(3-bromophenyl)butoxy]hexyl}-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one (1.0 g), N-methylethenesulphonamide (WO 95/09166), (462 mg), tri-o-tolylphosphine (200 mg), palladium acetate (165 mg) and triethylamine (5 ml) in dry DMF (15 ml) was heated at 90° C. for 18 h. The mixture was cooled and filtered. The filtrate was poured into water (200 ml) and extracted into ethyl acetate (3×50 ml). The combined extracts were washed with water (100 ml) and (Na2SO4) and evaporated in vacuo. The residual oil was purified by chromatography on Biotage (40 g) eluting with diethyl ether-ethyl acetate (9:1) to give the title compound (220 mg). LCMS RT=3.70 min.

reactant | (5R)-3-{6-[4-(3-bromophenyl)butoxy]hexyl}-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-1,3-oxazolidin-2-one | 1.0 g | BrC=1C=C(C=CC1)CCCCOCCCCCCN1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O | C29H38BrNO5
reactant | N-methylethenesulphonamide | 462 mg | CNS(=O)(=O)C=C | C3H7NO2S
reactant | tri-o-tolylphosphine | 200 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 165 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-2-{3-[4-({6-[(5R)-5-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)butyl]phenyl}-N-methylethenesulfonamide | 220 mg | CC1(OCC2=C(O1)C=CC(=C2)[C@@H]2CN(C(O2)=O)CCCCCCOCCCCC=2C=C(C=CC2)/C=C/S(=O)(=O)NC)C | C32H44N2O7S
